US04855086
A mixture of 4-pentyn-1-ol (1 g, 12.1 mmol), 2-iodotoluene (2.53 g, 11.6 mmol), dry diethylamine (20 ml), bis-triphenyl-phosphine palladium (II) chloride (150 mg) and cuprous iodide (60 mg) was stirred at room temperature under dry nitrogen for 24 hours). The solvent was removed and the residue extracted with ether. The organic phase was washed with brine and dried and the solvent removed. The crude product was purified by dry column chromatography (alumina, 9:1 hexane:ether 1:1 hexane:ether) to give 1.2 g (60% of theory) of 5-(2'-methylphenyl)-4-pentyn-1-ol as a brown oil.

reactant | 4-pentyn-1-ol | 12.1 mmol, 1 g | C(CCC#C)O | C5H8O
reactant | 2-iodotoluene | 11.6 mmol, 2.53 g | IC1=C(C=CC=C1)C | C7H7I
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
product | 5-(2'-methylphenyl)-4-pentyn-1-ol | 1.2 g, 60% | CC1=C(C=CC=C1)C#CCCCO | C12H14O
